US06911543B2
N-butyl lithium (150.6 ml, 241 mmol) is added dropwise to ether (100 ml) at −20° C. under N2. 3-Bromothianaphthene (10.5 ml, 80.3 mmol) is dissolved in ether (50 ml) and also added dropwise to the chilled solution, stirring cold for 0.5 h. DMF (16.3 ml, 210 mmol) is dissolved in ether (75 ml) and added dropwise, and the solution stirred an additional 15 h at −20° C. The reaction is quenched onto ice (300 g) in 10% H2SO4 (200 ml) and stirred until both layers turn yellow in color. The resulting slurry is filtered, and the cake is allowed to dry in the air stream, affording 1-benzothiophene-2,3-dicarbaldehyde (C180) as a yellow solid (60% yield). HRMS (FAB) calculated for C10H6O2S+H: 191.0167, found 191.0172 (M+H).

reactant | 3-Bromothianaphthene | 80.3 mmol, 10.5 ml | C1=CC=C2C(=C1)C(=CS2)Br | C8H5BrS
reactant | DMF | 210 mmol, 16.3 ml | CN(C)C=O | C3H7NO
reactant | ether | 50 ml | CCOCC | C4H10O
reactant | ether | 75 ml | CCOCC | C4H10O
reactant | ether | 100 ml | CCOCC | C4H10O
product | 1-benzothiophene-2,3-dicarbaldehyde | 60% yield | S1C(=C(C2=C1C=CC=C2)C=O)C=O | C10H6O2S
